US08440651B2
tert-Butyl 4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)piperidine-1-carboxylate (0.72 g) was brought up in ethanol (80 mL) and ethyl acetate (80 mL) and the flask was purged with nitrogen before addition of 10% Palladium on carbon (10 mol %). The reaction was placed under a hydrogen balloon and stirred at room temperature overnight. The reaction was filtered thru celite and purified by flash column chromatography to obtain 0.55 g tert-butyl 4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidine-1-carboxylate.

reactant | tert-Butyl 4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methylene)piperidine-1-carboxylate | 0.72 g | ClC=1N=C(C2=C(N1)C=CC(=N2)C=C2CCN(CC2)C(=O)OC(C)(C)C)N2CCOCC2 | C22H28ClN5O3
solvent | ethanol | 80 mL | C(C)O | C2H6O
product | tert-butyl 4-((2-chloro-4-morpholinopyrido[3,2-d]pyrimidin-6-yl)methyl)piperidine-1-carboxylate | 0.55 g | ClC=1N=C(C2=C(N1)C=CC(=N2)CC2CCN(CC2)C(=O)OC(C)(C)C)N2CCOCC2 | C22H30ClN5O3
